US07179835B2
2-tert-Butoxy-N-(pyridin-4-ylmethyl)ethanamine
Using 4-pyridine carboxaldehyde and O-tert butyl ethanolamine, and the synthetic procedure described for Intermediate 16, a crude sample of the title compound was prepared, which was used directly in the next stage of the synthetic sequence.

reactant | 4-pyridine carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | O-tert butyl ethanolamine | C(C)(C)(C)OCCN | C6H15NO
product | 2-tert-Butoxy-N-(pyridin-4-ylmethyl)ethanamine | C(C)(C)(C)OCCNCC1=CC=NC=C1 | C12H20N2O
